US04787930
0.9 ml (0.011 mol) of sulphuryl chloride in 5 ml of methylene chloride are added dropwise to a solution of 4.1 g (0.01 mol) of 5-dichloroacetamido-1-(2,3,5,6-tetrafluoro-4-trifluoromethyl-phenyl)-pyrazole in 20 ml of methylene chloride at 0° C.-5° C. The mixture is stirred at room temperature for 16 hours and diluted with 30 ml of methylene chloride, the solution is washed with saturated sodium bicarbonate solution and sodium chloride solution in succession and dried over magnesium sulphate and the solvent is removed in vacuo. 3.9 g (87.2% of theory) of 4-chloro-5-dichloroacetamido-1-(2,3,5,6-tetrafluoro-4-trifluoromethyl-phenyl)-pyrazole of melting point 115° C.-116° C. are obtained.

reactant | sulphuryl chloride | 0.011 mol, 0.9 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 5-dichloroacetamido-1-(2,3,5,6-tetrafluoro-4-trifluoromethyl-phenyl)-pyrazole | 0.01 mol, 4.1 g | ClC(C(=O)NC1=CC=NN1C1=C(C(=C(C(=C1F)F)C(F)(F)F)F)F)Cl | C12H4Cl2F7N3O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 4-chloro-5-dichloroacetamido-1-(2,3,5,6-tetrafluoro-4-trifluoromethyl-phenyl)-pyrazole | 3.9 g, 87.2% | ClC=1C=NN(C1NC(C(Cl)Cl)=O)C1=C(C(=C(C(=C1F)F)C(F)(F)F)F)F | C12H3Cl3F7N3O
